* Subcircuit 2_bit_dac
.subckt 2_bit_dac net-_r1-pad2_ net-_r4-pad1_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ 
* c:\fossee\esim\library\subcircuitlibrary\2_bit_dac\2_bit_dac.cir
.include switch.sub
r1  net-_r1-pad1_ net-_r1-pad2_ 250
r2  net-_r2-pad1_ net-_r1-pad1_ 250
r3  net-_r3-pad1_ net-_r2-pad1_ 250
r4  net-_r4-pad1_ net-_r3-pad1_ 250
x1 net-_u1-pad3_ net-_r1-pad1_ net-_r2-pad1_ net-_x1-pad4_ switch
x2 net-_u1-pad3_ net-_r3-pad1_ net-_r4-pad1_ net-_x2-pad4_ switch
x3 net-_u1-pad4_ net-_x1-pad4_ net-_x2-pad4_ net-_u1-pad5_ switch
* Control Statements

.ends 2_bit_dac